US05661183
6-Benzyloxy-5-chloro-7-nitrotetralin
5-Chloro-6-hydroxy-7-nitrotetralin (2.28 g, 10.0 mmol) was dissolved in dry DMF (40 mL) and flushed with argon. Benzyl chloride (11.5 mL, 100.0 mmol) n-Bu4NI (95 mg, 0.25 mmol) and K2CO3 (41.5 g, 30.0 mmol) were added. The reaction mixture was stirred for 24 h at room temperature, protected from light. The salts were filtered off and the solvent and excess of BnCl were co-evaporated with xylene (3×200 mL) and CH2Cl2 (200 mL), followed by vacuum-drying. The crude product (5.8 g) was purified by flash column chromatography (SiO2, CHCl3 -Hexane 1:1) and afforded the title compound (2.20 g). Mp 80°-82° C.; 1H NMR (DMSO-d6): δ 7.73 (s, 1 H), 7.48-7.37 (m, 5 H), 5.06 (s,2 H), 2.79-2.75 (m, 4 H), 1.79-1.69 (dm, 4 H); 13C NMR (DMSO-d6): δ 144.81, 142.14, 135.79, 135.56, 129.55, 128.42, 123.40, 106.20, 105.51, 75.80, 28.63, 27.65, 21.55, 21.36; MS (TSP): m/z (rel.int.) 337/335 (M+NH4, 30/100).

reactant | 5-Chloro-6-hydroxy-7-nitrotetralin | 10.0 mmol, 2.28 g | ClC1=C2CCCCC2=CC(=C1O)[N+](=O)[O-] | C10H10ClNO3
reactant | Benzyl chloride | 100.0 mmol, 11.5 mL, 95 mg | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | K2CO3 | 30.0 mmol, 41.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 6-Benzyloxy-5-chloro-7-nitrotetralin | 2.20 g | C(C1=CC=CC=C1)OC=1C(=C2CCCCC2=CC1[N+](=O)[O-])Cl | C17H16ClNO3
